US08580399B2
4-(3-bromophenyl)dibenzo[b,d]thiophene (18.50 g, 54.5 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (18.00 g, 70.9 mmol) were dissolved in 200 mL of dioxane, and to the dioxane solution potassium acetate (10.70 g, 109 mmol), 1,1′-bis(diphenylphosphino) ferrocene (0.666 g, 1.091 mmol) and tris(dibenzylideneacetone)dipalladium(0) (0.499 g, 0.545 mmol) were added. The reaction mixture was degassed and heated to reflux overnight, cooled down to room temperature, filtered and evaporated. Column chromatography on silica gel with hexane/DCM 95/5 v/v eluent provided 2-(3-(dibenzo[b,d]thiophen-4-yl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane as white solid (15.1 g, 71%).

reactant | 4-(3-bromophenyl)dibenzo[b,d]thiophene | 54.5 mmol, 18.50 g | BrC=1C=C(C=CC1)C1=CC=CC2=C1SC1=C2C=CC=C1 | C18H11BrS
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 70.9 mmol, 18.00 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino) ferrocene | 1.091 mmol, 0.666 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.545 mmol, 0.499 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 109 mmol, 10.70 g | O1CCOCC1 | C4H8O2
product | 2-(3-(dibenzo[b,d]thiophen-4-yl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 15.1 g, 71% | C1=CC=C(C=2SC3=C(C21)C=CC=C3)C=3C=C(C=CC3)B3OC(C(O3)(C)C)(C)C | C24H23BO2S
